US07064201B2
Ethyl potassium malonate (25.0 g, 0.15 mol) was suspended in water (15.6 ml) and cooled in an ice bath. Concentrated HCl (12.5 ml) was added dropwise over 30 min, then the mixture was stirred for a further 10 min. The precipitate was filtered, then washed twice with ether. The filtrate was separated and the aqueous phase was extracted with ether. The combined ethereal solutions were dried (MgSO4) and evaporated to afford, as an oil, monoethyl hydrogen malonate (19.2 g, 99%) which was dried under vacuum overnight (or 50°/1 mm for 1 h) prior to use.

reactant | Ethyl potassium malonate | 0.15 mol, 25.0 g | C(CC(=O)O)(=O)O.C(C)[K]
reactant | HCl | 12.5 ml | Cl | ClH
solvent | water | 15.6 ml | O | H2O
product | monoethyl hydrogen malonate | 19.2 g, 99% | C(CC(=O)O)(=O)OCC | C5H8O4
